US09447114B2
To a solution of 3-(5-(4-chlorobenzyl)-6-(3-chlorophenoxy)-1-methyl-2,4-dioxo-1,2-dihydro thieno[2,3-d]pyrimidin-3(4H)-yl)propyl 2,2,2-trifluoroacetate (40 mg, 0.068 mmol) in THF (3 mL) and water (3 mL) was added LiOH.H2O (8.6 mg, 0.20 mmol). The reaction was stirred at RT for 15 min then diluted with EA (20 mL) and water (20 mL). The organic layer was dried over Na2SO4 and concentrated to a residue which was purified by Prep HPLC to give 5-(4-chlorobenzyl)-6-(3-chlorophenoxy)-3-(3-hydroxypropyl)-1-methylthieno[2,3-d]pyrimidine-2,4(1H,3H)-dione (13 mg, 38.9% yield) as a white solid. 1H NMR (CDCl3) δ: 7.26-7.24 (m, 2H), 7.23 (d, J=6.0 Hz, 2H), 7.20 (s, 3H), 7.16 (d, J=8.5 Hz, 4H), 7.11 (d, J=8.0 Hz, 2H), 6.93 (dd, J=19.3, 5.2 Hz, 4H), 4.18 (dd, J=14.0, 8.0 Hz, 9H), 3.60-3.44 (m, 1H), 3.23 (t, J=7.1 Hz, 2H), 1.96-1.85 (m, 4H). LCMS: MH+ 491 and TR=3.276 min.

reactant | 3-(5-(4-chlorobenzyl)-6-(3-chlorophenoxy)-1-methyl-2,4-dioxo-1,2-dihydro thieno[2,3-d]pyrimidin-3(4H)-yl)propyl 2,2,2-trifluoroacetate | 0.068 mmol, 40 mg | FC(C(=O)OCCCN1C(N(C2=C(C1=O)C(=C(S2)OC2=CC(=CC=C2)Cl)CC2=CC=C(C=C2)Cl)C)=O)(F)F | C25H19Cl2F3N2O5S
reactant | LiOH.H2O | 0.20 mmol, 8.6 mg | O[Li].O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | water | 3 mL | O | H2O
solvent | EA | 20 mL | CC(OCC)=O | C4H8O2
solvent | water | 20 mL | O | H2O
product | 5-(4-chlorobenzyl)-6-(3-chlorophenoxy)-3-(3-hydroxypropyl)-1-methylthieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 13 mg, 38.9% yield | ClC1=CC=C(CC2=C(SC=3N(C(N(C(C32)=O)CCCO)=O)C)OC3=CC(=CC=C3)Cl)C=C1 | C23H20Cl2N2O4S
